US04092311
Ethyl 3-[6-(p-cyanophenyl)-5-methyl-3-pyridazinyl]carbazate
A mixture of 2.29 g. of 6-(p-cyanophenyl)-5-methyl-3-chloropyridazine and 2.18 g. of ethyl carbazate in 50 ml. of n-butyl alcohol is prepared. This solution is stirred and heated at reflux temperature for 4 hours. The reaction mixture is cooled to room temperature and the solvent removed on a rotating evaporator. Water is added to the residue and the resulting solid filtered, washed with water, ether and dried. The product is recrystallized from ethanol, m.p. 189°-191° C.

reactant | 6-(p-cyanophenyl)-5-methyl-3-chloropyridazine | C(#N)C1=CC=C(C=C1)C1=C(C=C(N=N1)Cl)C | C12H8ClN3
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | Ethyl 3-[6-(p-cyanophenyl)-5-methyl-3-pyridazinyl]carbazate | C(#N)C1=CC=C(C=C1)C1=C(C=C(N=N1)NNC(=O)OCC)C | C15H15N5O2
